Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cephalosporins / doxycycline
 
Attending: ___.
 
Chief Complaint:
vertigo 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o F with PMHx significant for CAD s/p 
CABG and PCI, dCHF (EF 40-45% in ___, Polymyalgia Rheumatica, 
DMII, depression, hypothyroidism, vertigo presenting with chest 
pain. 

Patient states she developed gradual onset chest pain, 
non-radiating in her left chest above her pacemaker, over the 
scar, during gardening. The pain self-resolved and has 
reoccurred multiple times with no clear trigger. Patient states 
that later in the day she was also gardening and felt as though 
she was going to pass out. Patient states she had to stand up 
straight to keep from passing out. She states the 
lightheadedness lasted less than one minute. She denies 
shortness of breath, n/v/d, f/c. She does endorse 2 days of dry 
cough. She denies trauma to her pacemaker site. 

In the ED, initial vitals: 98.1 66 171/82 14 100% RA  
- Exam notable for: mild ttp pacemaker site, no erythema, CTAB, 
RRR, abdomen soft, NT, ND, b/l ___ non-edematous
- Labs notable for: trop negative x 2, crt 1.7 (baseline appears 
to be 1.5 to 2) 
- Imaging notable for: CXR 1. Stable positioning of the left 
chest wall pacer and leads projecting to the region of the right 
atrium and right ventricle. 
2.  Minimal unchanged cardiomegaly, without focal consolidation 
or other acute cardiopulmonary process. 

While in ED the patient noted severe vertigo and was given 
meclizine with no relief.  She was also evaluated by the EP team 
who did not find any abnormalities with her pacemaker. Per 
report her cerebellar exam was normal in the ED. 

Of note she was admitted in ___ for vertigo of unclear 
etiology, with imaging that showed no evidence of acute stroke, 
and ___ maneuver did not reproduce her symtoms making 
BPPV less likely.

On arrival to the floor, pt reports vertigo has resolved. She 
had an episode of vertigo, where she felt herself spinning, that 
last a few seconds yesterday at rest, and early this morning at 
2 AM after returning from the bathroom. Nausea during the 
episode, but no vomiting. While trying to stand to go to the 
bathroom, she felt dizzy and felt too unsteady to stand, but it 
quickly resolved upon laying down. Denies chest pain, 
palpitations, fall, numbness, or weakness during these episodes. 
Denies decreased PO intake, vomiting, or diarrhea.

ROS: 10-point ROS negative except as noted above in HPI
 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
CABG in ___: CAD s/p CABG ___ (LIMA->LAD, SVG->diag->OM, 
SVG->PDA) 
Cath: ___  
-- LIMA to LAD patent.
-- SVG to the diagonal and OM occluded.
-- SVG to the PDA was occluded.  
-- Old 80% LAD lesion and 100% D1 occlusion. 
-- circumflex moderately diseased, 
-- RCA had serial 80% lesions --> 3 stents placed in the RCA.  
PCI: RCA PCI in ___
.
3. OTHER PAST MEDICAL HISTORY:
- prior CVA without residual deficit  
- glaucoma  
- arthritis  
- history of heart block and dual chamber pacemaker placement in 
___  
- diastolic CHF
- PVD
- Vertigo
- HTN
- Hypothyroidism
- Depression/Anxiety

 
Social History:
___
Family History:
Her son, ___, had a history of diabetes, hypertension, 
hyperlipidemia, status post anterior ST elevation MI with a 
drug-eluting stent to the proximal LAD in ___. He had an 
ICD implanted in ___ for a nonsustained VT in the 
setting of low EF (20%).  He presented on ___ after 
syncope and ICD shocks for rapid monomorphic VT with cycle 
length 210, right bundle-branch block configuration, right 
superior axis.  There may have been 12 occurrences.  During VT 
ablation in the EP lab, he had a non-clinical VT for which 
shocked.  He had a PEA arrest from which he recovered but never 
regained normal function.  He died ___ following a 
prolonged neurological vegetative state. 

Family history also significant for coronary artery disease. 
 
Physical Exam:
Admission Physical Exam:
===============
Vitals: T 98.7, BP 154/77, HR 61, RR 17, O2 100% RA  
General: Alert, lying in bed, in no acute distress  
HEENT: Sclerae anicteric, MMM  
Neck: supple, JVP not elevated  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: Heart sounds distant. RRR, Nl S1, S2, No MRG. No tenderness 
to palpation along pacemaker scar or over the pacemaker itself.  

Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly   
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: A&Ox3. CN2-12 intact. Upper extremity ___ bilaterally. 
Right lower extremity ___ (stable secondary to stroke) and left 
lower extremity ___. Nose-to-finger test intact bilaterally, 
knee to shin intact bilaterally, no dysdiadochokinesis 
bilaterally. Upper extremity reflexes 2+ bilaterally. 

Discharge Physical Exam:
===============
Vitals: 98.1 122/66 61 16 100% RA  
Exam: 
HEENT: Sclerae anicteric, MMM  
Neck: supple, JVP not elevated  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: Heart sounds distant. RRR, Nl S1, S2, No MRG. No tenderness 
to palpation along pacemaker scar or over the pacemaker itself.  

Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: A&Ox3. CN2-12 intact. Upper extremity ___ bilaterally. 
Right lower extremity ___ (stable secondary to stroke) and left 
lower extremity ___. Nose-to-finger test intact bilaterally, 
knee to shin intact bilaterally, no dysdiadochokinesis 
bilaterally. Upper extremity reflexes 2+ bilaterally. 
 
Pertinent Results:
Admission Labs:
==================
___ 11:22AM   cTropnT-<0.01
___ 05:15AM   GLUCOSE-107* UREA N-67* CREAT-1.7* SODIUM-137 
POTASSIUM-4.8 CHLORIDE-100 TOTAL CO2-25 ANION GAP-17
___ 05:15AM   WBC-8.3 RBC-3.87* HGB-11.3 HCT-35.3 MCV-91 
MCH-29.2 MCHC-32.0 RDW-14.6 RDWSD-48.5*
___ 05:15AM   NEUTS-65.6 ___ MONOS-9.0 EOS-1.1 
BASOS-0.6 IM ___ AbsNeut-5.46 AbsLymp-1.93 AbsMono-0.75 
AbsEos-0.09 AbsBaso-0.05
___ 05:15AM   PLT COUNT-169#
___ 11:22AM BLOOD cTropnT-<0.01
___ 05:15AM BLOOD CK-MB-1 cTropnT-<0.01

Imaging:
==================
CXR ___:
1.  Stable positioning of the left chest wall pacer and leads 
projecting to
the region of the right atrium and right ventricle.
2.  Minimal unchanged cardiomegaly, without focal consolidation 
or other acute cardiopulmonary process.

Discharge Labs:
==================
___ 07:08AM BLOOD WBC-7.0 RBC-3.90 Hgb-11.5 Hct-35.2 MCV-90 
MCH-29.5 MCHC-32.7 RDW-14.2 RDWSD-47.1* Plt ___
___ 07:08AM BLOOD Glucose-124* UreaN-64* Creat-1.8* Na-142 
K-4.7 Cl-103 HCO3-26 AnGap-18

 
Brief Hospital Course:
Ms. ___ is a ___ yo woman ___ significant for CAD s/p CABG 
and PCI, dCHF (EF 40-45% in ___, Polymyalgia Rheumatica, DMII, 
depression, hypothyroidism who initially presented with chest 
pain and admitted for vertigo. 

Chest pain:  patient reported intermittent non-exertional chest 
pain over site of PPM. In the ED, PPM was evaluated by EP and 
found to be without issue. EKG was unchanged and troponin x 2. 
She had no more chest pain during her hospitalization. We 
decided not to perform a stress test given the atypical nature 
of her symptoms. She will follow with her cardiologist next 
month. 

Vertigo:  she reported symptoms were similar to her symptoms one 
year prior (patient was admitted for vertigo in ___. On 
arrival to the medicine floor she had unsteady gait. Cerebellar 
exam was normal and she had no other new focal deficits on neuro 
exam. Of note, she has chronic right sided weakness from prior 
stroke. ___ did reproduce her symptoms and Epley 
maneuver made her feel better.  Patient felt better on HD2 and 
was discharge home with home ___.  

Chronic Issues: 

CAD: S/p CABG and PCI, s/p dual chamber pacemaker. Pacemaker was 
evaluated in the ED and working properly. 
- Continued home medications: carvedilol, clopidogrel, aspirin, 
rosuvastatin. Of note patient reported she was only taking 25 mg 
carvedilol per day so gave her 12.5 mg BID and recommended this 
dose at discharge.
- Home isosorbide mononitrate divided 15 mg BID.

# HTN: 
- Continued felodipine, torsemide and lisinopril 

# DM2: 
- Held home glimepiride and linagliptin, placed on insulin 
sliding scale  

# Polymyalgia rheumatica:
- Continue home prednisone

Transitional Issues:
===========
- patient does not appear to be taking her carvedilol as 
prescribed, she has been taking 25 mg daily. We therefore 
changed her to 12.5 g daily at discharge. Please follow BP at 
next visit.
- she was give Rx for Meclizine at discharge
- chest pain: very atypical would recommend outpatient follow-up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 2 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Carvedilol 25 mg PO DAILY 
4. Felodipine 0.75 mg PO DAILY 
5. linagliptin 5 mg oral daily 
6. Rosuvastatin Calcium 40 mg PO QPM 
7. Torsemide 5 mg PO DAILY 
8. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
9. Clopidogrel 75 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. glimepiride 1 mg oral daily 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
3. Clopidogrel 75 mg PO DAILY 
4. Felodipine 2.5 mg PO DAILY 
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
6. Lisinopril 20 mg PO DAILY 
7. PredniSONE 2 mg PO DAILY 
8. Rosuvastatin Calcium 40 mg PO QPM 
9. Torsemide 5 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. glimepiride 1 mg ORAL DAILY 
12. linagliptin 5 mg oral daily 
13. Meclizine 12.5 mg PO Q8H:PRN dizziness  
RX *meclizine 12.5 mg 1 tablet(s) by mouth TID PRN Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
==================
Benign paroxysmal positional vertigo (BPPV)
atypical chest pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___.

Why was I here? 
- You had chest pain.
- You had episodes of vertigo (dizziness).

What was done while I was here?
- You received medicines to help with dizziness.
- You had a maneuver to try and correct the cause of the 
vertigo.

What should I do when I get home? 
- Take your medicines as prescribed.
- You are getting a new medicine called Meclizine which you can 
take if you feel dizzy. Do not drive or operate heavy machinery 
with this medicine.  This medicine can make you sleepy. 

Sincerely, 
Your ___ team

 
Followup Instructions:
___